US04264510
By reacting the 1,2,3,4,9,10-hexahydro-2,3-dimethylene-1,4-epoxyanthracen-5-ol with benzyl bromide in place of methyl iodide in an analogous manner, there was obtained in good yield 1,2,3,4,9,10-hexahydro-5-benzyloxy-2,3-dimethylene-1,4-epoxyanthracene.

reactant | 1,2,3,4,9,10-hexahydro-2,3-dimethylene-1,4-epoxyanthracen-5-ol | C=C1C2C=3CC=4C=CC=C(C4CC3C(C1=C)O2)O | C16H14O2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 1,2,3,4,9,10-hexahydro-5-benzyloxy-2,3-dimethylene-1,4-epoxyanthracene | C(C1=CC=CC=C1)OC1=C2CC=3C4C(C(C(C3CC2=CC=C1)O4)=C)=C | C23H20O2
